US05302593
a) Preparation of 8-pyrrolidinyloctylphthalimide
8-Bromooctylphthalimide (517 mg; 2.0 mmoles) and pyrrolidine (0.33 ml; 4.0 mmoles) were dissolved in anhydrous ethyl ether (5 ml). Reaction times and process as per Example 1.

reactant | 8-Bromooctylphthalimide | 2.0 mmoles, 517 mg | BrCCCCCCCCC1=C2C(C(=O)NC2=O)=CC=C1 | C16H20BrNO2
reactant | pyrrolidine | 4.0 mmoles, 0.33 ml | N1CCCC1 | C4H9N
solvent | ethyl ether | 5 ml | C(C)OCC | C4H10O
product | 8-pyrrolidinyloctylphthalimide | N1(CCCC1)CCCCCCCCC1=C2C(C(=O)NC2=O)=CC=C1 | C20H28N2O2
